US07723345B2
Alternatively, tetrabutylammoniumfluoride (TBAF 1.0 N in THF 13 uL, 3.3 mg, 0.013 mmol) was added to a mixture of 3-methyl-biphenyl-2-carboxaldehyde (0.25 g, 1.27 mmol) and trifluoromethytrimethyl silane (0.25 g, 1.53 mmol), in THF (1.5 ml) at 0° C. The reaction was warmed to room temperature and stirred for 4 hours. HCl (3.0 N, 2.0 ml) was added, and the mixture was stirred for 3 hours. The mixture was concentrated, dissolved in methylene chloride, filtered through silica gel, and concentrated to give 0.15 g of 2,2,2-trifluoro-1-(3′-methylbiphenyl-2-yl)ethanol.

reactant | 3-methyl-biphenyl-2-carboxaldehyde | 1.27 mmol, 0.25 g | CC1=C(C(=CC=C1)C1=CC=CC=C1)C=O | C14H12O
reactant | trifluoromethytrimethyl silane | 1.53 mmol, 0.25 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | HCl | 3.0 N, 2.0 ml | Cl | ClH
reactant | THF | 1.5 ml | C1CCOC1 | C4H8O
catalyst | tetrabutylammoniumfluoride | 0.013 mmol, 1.0 N, 13 uL, 3.3 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,2,2-trifluoro-1-(3′-methylbiphenyl-2-yl)ethanol | 0.15 g | FC(C(O)C1=C(C=CC=C1)C1=CC(=CC=C1)C)(F)F | C15H13F3O
